US07205297B2
A mixture of 6.3 g of 4-chloro-2-diisopropylaminomethyleneamino-5-iodopyrimidine, 33 mL of triethylamine, 2.43 g of 4-ethyl-1-ethynylbenzene, 0.304 g of dichlorobis(triphenyl)phosphine palladium II and 0.21 g copper iodide was magnetically stirred at reflux temperature for 1.5 hrs. The mixture was filtered and the filtrate evaporated in vacuo. Both the precipitate and the evaporated filtrate were dissolved in dichloromethane and washed with water, dried over sodium sulfate, filtered and evaporated. The residues were dissolved in 1:1 dichloromethane-hexanes and separately purified by column chromatography. After initial elution with 1:1 dichloromethane-hexanes, the product was obtained by elution with dichloromethane and 50% ethyl acetate-dichloromethane. Evaporation of the eluates gave 4.04 g of 4-chloro-2-diisopropylaminomethyleneamino-5-(4-ethylphenylethynyl)pyrimidine as a thick amber syrup.

reactant | 4-chloro-2-diisopropylaminomethyleneamino-5-iodopyrimidine | 6.3 g | ClC1=NC(=NC=C1I)N=CN(C(C)C)C(C)C | C11H16ClIN4
reactant | 4-ethyl-1-ethynylbenzene | 2.43 g | C(C)C1=CC=C(C=C1)C#C | C10H10
catalyst | dichlorobis(triphenylphosphine)palladium | 0.304 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.21 g | [Cu](I)I
solvent | triethylamine | 33 mL | C(C)N(CC)CC | C6H15N
product | 4-chloro-2-diisopropylaminomethyleneamino-5-(4-ethylphenylethynyl)pyrimidine | 4.04 g | ClC1=NC(=NC=C1C#CC1=CC=C(C=C1)CC)N=CN(C(C)C)C(C)C | C21H25ClN4
